US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 1 which is concerned with the preparation of starting materials, 3-amino-N-cyclopropyl-4-methylbenzamide was reacted with 5-fluoro-2-nitrobenzoic acid to give 5-fluoro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.69 (m, 2H), 2.30 (s, 3H), 2.85 (m, 1H), 7.31 (m, 1H), 7.61 (m, 2H), 7.76 (m, 1H), 7.94 (s, 1H), 8.26 (m, 1H), 8.40 (m, 1H), 10.25 (s, 1H); Mass Spectrum: M−H+ 356.

reactant | 3-amino-N-cyclopropyl-4-methylbenzamide | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
reactant | 5-fluoro-2-nitrobenzoic acid | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
product | 5-fluoro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitrobenzamide | FC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C1)[N+](=O)[O-] | C18H16FN3O4
